US05616579
5-Phenyl-N-[4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]isoxazole-3-carboxamide
Following a procedure similar to that described in Example 13, but using 4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenylamine and 5-phenyl-3-isoxazolecarboxylic acid as starting materials, in relative proportions similar to those used in that Example, the title compound, melting at 105°-106° C., was obtained as colorless prisms in a 50% yield.

reactant | 4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenylamine | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CN | C15H23N3O
reactant | 5-phenyl-3-isoxazolecarboxylic acid | C1(=CC=CC=C1)C1=CC(=NO1)C(=O)O | C10H7NO3
product | 5-Phenyl-N-[4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]isoxazole-3-carboxamide | 50% yield | C1(=CC=CC=C1)C1=CC(=NO1)C(=O)NC\C=C/COC1=NC=CC(=C1)CN1CCCCC1 | C25H28N4O3
